US09233979B2
(R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide (0.037 mmol) was taken up in TFA (1 ml) and the reaction mixture was stirred at room temperature for 1 h. Triethylsilane (0.006 ml, 0.037 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered preparative HPLC to afford (R)—N-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide (4.3 mg, 0.012 mmol, 31.8% yield) as a white solid. MS ESI calc'd. For C19H21N6O2 [M+H]+ 365. found 365. 1H NMR (ppm, 600 MHz, DMSO): δ 11.15 (s, 1H); 9.33 (br s, 1H); 9.05 (s, 1H); 7.79 (br s, 1H); 7.41 (s, 1H); 7.31 (d, J=4.4 Hz, 4H); 7.21 (d, J=5.7 Hz, 1H); 4.84 (t, J=7.2 Hz, 1H); 1.93 (m, 1H); 1.38 (d, J=7.0 Hz, 3H); 0.83 (t, J=6.9 Hz, 4H).

reactant | (R)—N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide | 0.037 mmol | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(=O)C2CC2)=O | C38H34N6O2
reactant | Triethylsilane | 0.037 mmol, 0.006 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)—N-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)cyclopropanecarboxamide | 0.012 mmol, 4.3 mg, 31.8% yield | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2)NC(=O)C2CC2)=O | C19H20N6O2
